US04463173
A solution of 1-amino-2-nitro-4-cyanomethylbenzene (6 g.) in ethanol (100 ml.) was hydrogenated for 1.5 hour at atmospheric pressure in presence of 3.6 g. of 10% w/w Pd/C. The catalyst was removed and the solvent was evaporated to give 1,2-diamino-4-cyanomethylbenzene which was used without further purification.

reactant | 1-amino-2-nitro-4-cyanomethylbenzene | 6 g | NC1=C(C=C(C=C1)CC#N)[N+](=O)[O-] | C8H7N3O2
solvent | ethanol | 100 ml | C(C)O | C2H6O
catalyst | Pd/C | [Pd] | Pd
product | 1,2-diamino-4-cyanomethylbenzene | NC1=C(C=C(C=C1)CC#N)N | C8H9N3
